US08445501B2
4-(2-Cyclopropylmethoxy-5-fluoro-4-hydroxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-hydroxy-acetyl)piperidin-4-yl]-amide
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-4-hydroxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride (example A188) and acetic acid chlorocarbonyl-methyl ester the title compound is obtained as colorless solid

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-4-hydroxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)O)OCC2CC2
reactant | acetic acid chlorocarbonyl-methyl ester | ClC(=O)COC(C)=O | C4H5ClO3
product | 4-(2-Cyclopropylmethoxy-5-fluoro-4-hydroxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-hydroxy-acetyl)piperidin-4-yl]-amide | OCC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)O)OCC2CC2 | C24H26FN5O5
